US06093696
3-Nitro-L-tyrosine methyl ester hydrochloride
Acetyl chloride (8.9 ml, 125 mmol) was added slowly to methanol (100 ml) at 0°. 3-Nitro-L-tyrosine (5.65 g, 25 mmol) was added and the mixture refluxed for 2 h. The solvent was evaporated in vacuo and the yellow solid obtained recrystallised from methanol to give the title compound as yellow needles (2.97 g, 43%), m.p. 200-201°. (Found: C, 43.29;H, 4.69; N, 10.19. C10H12N2O5HCl requires C, 43.41;H, 4.74; N, 10.13%); δH (CD3OD) 8.00 (1H, d, J 2.2 Hz, ArH), 7.53 (1H, dd, J 2.3, 8.6 Hz, ArH), 7.17 (1H, d, J 8.6 Hz, ArH), 4.37 (1H, dd, J 6.4, 7.0 Hz, CHα), 3.83 (3H, s, CO2CH3), 3.29 (1H, dd, J 6.3, 14.6 Hz, CHAHBAr) and 3.20 (1H, dd, J 7.1, 14.6 Hz, CHAHBAr); m/z (ES, 27V) 241 (M+ +1).

reactant | Acetyl chloride | 125 mmol, 8.9 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-Nitro-L-tyrosine | 25 mmol, 5.65 g | [N+](=O)([O-])C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H10N2O5
solvent | methanol | 100 ml | CO | CH4O
product | 3-Nitro-L-tyrosine methyl ester hydrochloride | 2.97 g, 43% | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)O)[N+](=O)[O-])=O | InChI=1S/C10H12N2O5.ClH/c1-17-10(14)7(11)4-6-2-3-9(13)8(5-6)12(15)16;/h2-3,5,7,13H,4,11H2,1H3;1H/t7-;/m0./s1
